US04242519
To 978 mg of methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]propionate were added 2 ml of 1,2-dimethoxyethane and 0.5 ml of water, and 0.2 ml of conc. hydrochloric acid was further added. The mixture was stirred at room temperature for 15 hours. The reaction solution was diluted with 50 ml of methylene chloride, and dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and the filtrate was concentrated under reduced pressure to afford 874 mg of methyl α-methylthio-α-(m-benzoylphenyl)propionate. The product was found to be substantially pure by its NMR and GLC.

reactant | methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]propionate | 978 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC | C20H24O4S
reactant | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
reactant | water | 0.5 ml | O | H2O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl α-methylthio-α-(m-benzoylphenyl)propionate | 874 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C18H18O3S
